US03960542
A mixture of 37 gms (0.1 mole) 2-mercaptopyridine N-oxide, sodium salt (40% aqueous solution) and 19.5 gms (0.1 mole) 2,6-dichlorobenzylchloride in 200 ml of ethanol is warmed to 65° - 70° for 30 minutes, cooled and filtered. The filter cake is washed thoroughly water and finally with 40 ml of acetone. The dry cake (25.3 gms) represents a 92% yield of 2-(2,6-dichlorophenylmethylthio)pyridine N-oxide. Melting point 240° - 241°C. Structure confirmed by IR and NMR.

reactant | 2-mercaptopyridine N-oxide | 0.1 mole, 37 gms | SC1=[N+](C=CC=C1)[O-] | C5H5NOS
reactant | sodium | [Na] | Na
reactant | 2,6-dichlorobenzylchloride | 0.1 mole, 19.5 gms | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2,6-dichlorophenylmethylthio)pyridine N-oxide | 92% yield | ClC1=C(C(=CC=C1)Cl)CSC1=[N+](C=CC=C1)[O-] | C12H9Cl2NOS
